US08877975B2
(1-(4-chloro-3-fluorophenyl)cyclohexyl)-methanamine (98)
The title compound was synthesized from 1-(4-chloro-3-fluorophenyl)-cyclohexanecarbonitrile using General Procedure E and was obtained in 19% yield as a clear oil. HPLC Rt=8.28 min. LCMS Rt=8.13 min, m/z=242 (M+1). HCl salt −1H NMR (DMSO-d6, δ): 7.35 (t, J=8.1 Hz, 1H), 7.17 (d, J=11.3 Hz, 1H), 7.10 (d, J=8.4 Hz, 1H), 2.82 (s, 2H), 2.1 (m, 2H), 1.7-1.1 (m, 8H). 13C NMR (DMSO-d6, δ, mult): 159.2(0), 156.7(0), 143.1(0), 143.0(0), 130.6(1), 124.1(1), 124.1(1), 118.5(0), 118.3(0), 116.2(1), 116.0(1), 50.2(2), 40.6(0), 33.3(2), 25.5(2), 21.4(2).

reactant | 1-(4-chloro-3-fluorophenyl)-cyclohexanecarbonitrile | ClC1=C(C=C(C=C1)C1(CCCCC1)C#N)F | C13H13ClFN
reactant | HCl | Cl | ClH
product | (1-(4-chloro-3-fluorophenyl)cyclohexyl)-methanamine | 19% yield | ClC1=C(C=C(C=C1)C1(CCCCC1)CN)F | C13H17ClFN
